US04436745
4-Aza-9-fluorenone (Aldrich Chemical Co.), (2.4 g, 13.3 mmol), KCN (2.0 g, 30.7 mmol) and ammonium carbonate (5.0 g) in 80% ethanol (50 cc) were placed in a thick walled glass pressure reactor. The mixture was heated at 110°-115° C. for 12 hours. The reaction vessel was cooled and ice water (200 mL) was added to the reaction mixture. Dilute hydrochloric acid was added until pH was approximately 8 and the solid was collected by filtration. The collected solid was dissolved in 5% sodium hydroxide and treated with activated charcoal and filtered through a Celite (diatomaceous earth filter aid) pad. The solution was adjusted to pH 7-8 by the addition of 1 N hydrochloric acid. The resulting precipitate was collected on a filter, washed with cold water and dried to yield a sample of dl-Spiro-(4-aza-fluorene-9,4'-imidazolidine)-2',5'-dione (1.4 g) having a melting point of 311°-312° C. with dec., m/e+ . 251 for C14H9N3O2.

reactant | 4-Aza-9-fluorenone | 13.3 mmol, 2.4 g | C1=CC=NC=2C3=CC=CC=C3C(C12)=O | C12H7NO
reactant | KCN | 30.7 mmol, 2.0 g | [C-]#N.[K+]
reactant | ammonium carbonate | 5.0 g | C([O-])([O-])=O.[NH4+].[NH4+]
reactant | hydrochloric acid | Cl | ClH
reactant | ethanol | 50 cc | C(C)O | C2H6O
product | Spiro-(4-aza-fluorene-9,4'-imidazolidine)-2',5'-dione | 1.4 g | N1C(NC2(C1=O)C1=CC=CC=C1C=1N=CC=CC12)=O | C14H9N3O2
